US07482456B2
Step 2: 3-bromo-5-(5-methyl-1,2,4-oxadiazol-3-yl)pyridine
To a solution of 5-bromo-N′-hydroxypyridine-3-carboximidamide (1.0 eq.) in pyridine was added acetyl chloride (2 eq). The reaction stirred at 100° C. for 1 h and 2 eq of acetyl chloride was added. After 1 h, the mixture was cooled, diluted with EtOAc and aqueous NaHCO3. The organic extracts were washed with aqueous NaHCO3, brine, dried over Na2SO4, filtered and concentrated. Flash chromatography (Hex:EtOAc; 70:30) afforded the title compound as a white solid.

reactant | 5-bromo-N′-hydroxypyridine-3-carboximidamide | 1.0 eq. | BrC=1C=C(C=NC1)C(N)=NO | C6H6BrN3O
reactant | acetyl chloride | 2 eq | C(C)(=O)Cl | C2H3ClO
reactant | acetyl chloride | 2 eq | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 3-bromo-5-(5-methyl-1,2,4-oxadiazol-3-yl)pyridine | BrC=1C=NC=C(C1)C1=NOC(=N1)C | C8H6BrN3O
